US04146715
Sodium benzoate (96.32 g) in DMF (690 ml) was heated to 80° C., and 1-chloro-3-hydroxypropane (63.06 g) was added over 15 minutes. The temperature increased to 135° C., and the reaction mixture was heated at 135°-175° C. for 3 hours. Filtration removed 38 g of sodium chloride (97% of theory). The filtration was partially evaporated at reduced pressure at <40° C. The concentrated filtrate was poured into ice water and extracted well with ether. The combined ether extracts were washed with water, dried over anhydrous sodium sulfate, and evaporated. The residual oil was distilled through a Vigreux column to give 3-benzoyloxy-1-propanol (85.2 g), b.p. 124°-132° C. at 0.055 mm Hg.

reactant | Sodium benzoate | 96.32 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | 1-chloro-3-hydroxypropane | 63.06 g | ClCCCO | C3H7ClO
solvent | DMF | 690 ml | CN(C)C=O | C3H7NO
product | 3-benzoyloxy-1-propanol | 85.2 g | C(C1=CC=CC=C1)(=O)OCCCO | C10H12O3
